US04493843
A stirred solution of 4-amino-3-methylbenzoic acid (30.2 g), in dry dimethylformamide (300 ml), containing tributylamine (55 ml) was treated with n-hexadecanoyl chloride (61.0 g) in a similar manner to that described in Example 1(i) to give 4-(n-hexadecanamido)-3-methylbenzoic acid (21 g), in the form of white needles, m.p. 194°-196° C.

reactant | 4-amino-3-methylbenzoic acid | 30.2 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | tributylamine | 55 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | n-hexadecanoyl chloride | 61.0 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-(n-hexadecanamido)-3-methylbenzoic acid | 21 g | C(CCCCCCCCCCCCCCC)(=O)NC1=C(C=C(C(=O)O)C=C1)C | C24H39NO3
